US07767691B2
Preparation of 4-[cyano(diphenyl)methyl]-1-(2-hydroxyethyl)-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 24, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile (0.044 g, 0.152 mmol) and 3-bromo-1-propanol (0.020 mL, 0.282 mmol) in 2CH3CN/3CHCl3 (3.5 mL) were reacted to give the desired product (0.0196 g, 31.1%). EI-MS m/z 333 (M+) Rt (1.43 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.152 mmol, 0.044 g | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
reactant | 3-bromo-1-propanol | 0.282 mmol, 0.020 mL | BrCCCO | C3H7BrO
product | 4-[cyano(diphenyl)methyl]-1-(2-hydroxyethyl)-1-azoniabicyclo[2.2.1]heptane bromide | 0.0196 g, 31.1% | [Br-].C(#N)C(C12CC[N+](CC1)(C2)CCO)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C22H25N2O.BrH/c23-17-22(19-7-3-1-4-8-19,20-9-5-2-6-10-20)21-11-13-24(18-21,14-12-21)15-16-25;/h1-10,25H,11-16,18H2;1H/q+1;/p-1
